US07943776B2
N-cyclopropyl-4-methyl-3-({4-[(1-oxidopyridin-2-yl)methoxy]benzoyl}amino)benzamide
N-cyclopropyl-4-methyl-3-{[4-(pyridin-2-ylmethoxy)benzoyl]amino }benzamide (200 mg, 0.5 mmol) was dissolved in dichloromethane (50 mL) and stirred while adding 3-chloroperbenzoic acid (85%, 200 mg). The solution was stirred for one hour at 25° C., then washed twice with sodium bicarbonate solution and dried. The solvent was evaporated to give the title compound as a white solid (120 mg); NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.68 (m, 2H), 2.24 (s, 3H), 2.84 (m, 1H), 5.35 (s, 2H), 7.18 (d, 2H), 7.31(d, 1H), 7.42 (m, 2H), 7.60 (m, 2H), 7.78 (m, 1H), 7.99 (d, 2H), 8.36 (m, 2H), 9.84 (s, 1H); Mass Spectrum: M+H+ 418.

reactant | N-cyclopropyl-4-methyl-3-{[4-(pyridin-2-ylmethoxy)benzoyl]amino }benzamide | 0.5 mmol, 200 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)OCC1=NC=CC=C1)=O)=O | C24H23N3O3
reactant | 3-chloroperbenzoic acid | 200 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-cyclopropyl-4-methyl-3-({4-[(1-oxidopyridin-2-yl)methoxy]benzoyl}amino)benzamide | 120 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)OCC1=[N+](C=CC=C1)[O-])=O)=O | C24H23N3O4
